US07645789B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid (0.079 g, 0.384 mmol) in acetonitrile (1.5 mL) were added HBTU (0.146 g, 0.384 mmol) and Et3N (160 μL, 1.15 mmol) at room temperature. The mixture was allowed to stir at room temperature for 10 min before a solution of ethyl 2-(5-amino-1H-indol-2-yl)propanoate (0.089 g, 0.384 mmol) in acetonitrile (2.16 mL) was added. After addition, the reaction mixture was stirred at room temperature for 2 h. The solvent was evaporated under reduced pressure and the residue was dissolved in dichloromethane. The organic layer was washed with 1 N HCl (1×3 mL) and then saturated aqueous NaHCO3 (1×3 mL). The organic layer was dried over Na2SO4, filtered and evaporated under reduced pressure. The crude material was purified by column chromatography on silica gel (ethyl acetate/hexane=1/1) to give ethyl 2-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)propanoate (0.081 g, 50%). 1H NMR (400 MHz, CDCl3) δ 8.51 (s, 1H), 7.67 (s, 1H), 7.23-7.19 (m, 2H), 7.04-7.01 (m, 3H), 6.89 (d, J=0.0 Hz, 1H), 6.28 (s, 1H), 6.06 (s, 2H), 4.25-4.17 (m, 2H), 3.91 (q, J=7.2 Hz, 1H), 1.72-1.70 (m, 2H), 1.61 (s, 2H), 1.29 (t, J=7.1 Hz, 4H), 1.13-1.11 (m, 2H).

reactant | 1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxylic acid | 0.384 mmol, 0.079 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)O | C11H10O4
reactant | HBTU | 0.384 mmol, 0.146 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.15 mmol, 160 μL | CCN(CC)CC | C6H15N
reactant | ethyl 2-(5-amino-1H-indol-2-yl)propanoate | 0.384 mmol, 0.089 g | NC=1C=C2C=C(NC2=CC1)C(C(=O)OCC)C | C13H16N2O2
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2.16 mL | C(C)#N | C2H3N
product | ethyl 2-(5-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-1H-indol-2-yl)propanoate | 0.081 g, 50% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(C(=O)OCC)C | C24H24N2O5
